US08058276B2
Step 17.4: Hexanoic acid 4-chloro-pyrimidin-2-ylmethyl ester
To a solution of 300 mg (1.33 mMol) hexanoic acid 4-hydroxy-pyrimidin-2-ylmethyl ester, 487 mg (2.94 mMol) Et4NCl and 373 μl (2.94 mMol) N,N-dimethylaniline in 15 ml of acetonitrile, 1.22 ml (13.3 mMol) POCl3 are added. After stirring for 24 h at rt, the solution is concentrated in vacuo. The residue is re-dissolved in EtOAc and sat. NaHCO3, the aq. layer separated off and extracted twice with EtOAc. The organic phases are dried (Na2SO4) and concentrated. Chromatography (Combi Flash; hexane/ether 199:1→9:1→3:2) gives the title compound as an oil: MS: [M+1]+=243/245; TLC(CH2Cl2): Rf=0.26.

reactant | hexanoic acid 4-hydroxy-pyrimidin-2-ylmethyl ester | 1.33 mMol, 300 mg | OC1=NC(=NC=C1)COC(CCCCC)=O | C11H16N2O3
reactant | N,N-dimethylaniline | 2.94 mMol, 373 μl | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 13.3 mMol, 1.22 ml | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | Et4NCl | 2.94 mMol, 487 mg | [N+](CC)(CC)(CC)CC.[Cl-]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Hexanoic acid 4-chloro-pyrimidin-2-ylmethyl ester | ClC1=NC(=NC=C1)COC(CCCCC)=O | C11H15ClN2O2
